US07262185B2
2-mercaptopyridine (10 g) was dissolved in DMF (100 ml), 60% sodium hydride (3.6 g) was added to the mixture at 0° C., and then, the mixture was stirred for 15 minutes at room temperature. 4-fluoronitrobenzene (9.75 g) was added dropwise to the mixture at 0° C. and the mixture was stirred for 1 hour at room temperature. To the reaction mixture was added, and the precipitated crystals were collected by filtration, and washed with hexane/diethylether, to give 2-[(4-nitrophenyl)sulfanyl]pyridine (12.6 g).

reactant | 2-mercaptopyridine | 10 g | SC1=NC=CC=C1 | C5H5NS
reactant | sodium hydride | 3.6 g | [H-].[Na+]
reactant | 4-fluoronitrobenzene | 9.75 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2-[(4-nitrophenyl)sulfanyl]pyridine | 12.6 g | [N+](=O)([O-])C1=CC=C(C=C1)SC1=NC=CC=C1 | C11H8N2O2S
